US07705042B2
d) 2-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester
To a solution of 2-formyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester (0.11 g, 0.38 mmol) (as prepared in the previous step) in methanol (2 mL) was added a 50% aqueous hydroxylamine solution (30 μL) and the reaction stirred for 3 h at RT and then concentrated. The residue was dissolved in DCM (2 mL), pyridine (0.13 mL), and trifluoroacetic anhydride (0.17 mL, 1.1 mmol) was added and the reaction stirred for 10 h at RT. The reaction was diluted with EtOAc (10 mL) and washed with satd. NaHCO3 (2×10 mL) and the organic layer dried over Na2SO4 and then concentrated. The title compound was eluted from a 10-g SPE cartridge (silica) with 30% EtOAc/hexane to give 0.085 g (76%) of a colorless oil. 1H-NMR (400 MHz, CDCl3): δ 7.99 (s, 1H), 5.50 (s, 2H), 3.92 (s, 3H), 3.58 (m, 2H), 0.94 (m, 214), 0.00 (s, 9H).

reactant | 2-formyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester | 0.38 mmol, 0.11 g | COC(=O)C=1N=C(N(C1)COCC[Si](C)(C)C)C=O | C12H20N2O4Si
reactant | hydroxylamine | 30 μL | NO | H3NO
reactant | pyridine | 0.13 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 1.1 mmol, 0.17 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methanol | 2 mL | CO | CH4O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 2-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid methyl ester | 0.085 g, 76% | COC(=O)C=1N=C(N(C1)COCC[Si](C)(C)C)C#N | C12H19N3O3Si
